US06248755B1
Step A: (1-Benzyl-piperidin-4-yl)-(3-nitro-pyridin-2-yl)-amine
To a solution of 1.64 g 2-chloro-3-nitropyridine and 1.37 g of 1-benzyl-piperidin-4-ylamine in 20 mL THF was added diisopropylethylamine. The reaction was refluxed for 6 hours. The reaction was cooled down, diluted with 50 mL of EtOAc and washed with 30 mL of saturated NaHCO3 aqueous solution. After separating layers, the aqueous phase was extracted with 2×30 mL of EtOAc. The combined organic phases were washed with 15 mL of brine, dried over MgSO4 and concentrated under reduced pressure. The residue was purified by flash chromatography eluting with 25% EtOAc in hexane, then 50% EtOAc in hexane and 100% EtOAc to give 823 mg of the title compound as a yellow solid.

reactant | 2-chloro-3-nitropyridine | 1.64 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | 1-benzyl-piperidin-4-ylamine | 1.37 g | C(C1=CC=CC=C1)N1CCC(CC1)N | C12H18N2
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | (1-Benzyl-piperidin-4-yl)-(3-nitro-pyridin-2-yl)-amine | 823 mg | C(C1=CC=CC=C1)N1CCC(CC1)NC1=NC=CC=C1[N+](=O)[O-] | C17H20N4O2
